US06809097B1
A suspension of 4-chloro-6,7-dimethoxyquinoline (200 mg, 0.89 mmol), (prepared as described for the starting material in Example 2), and 6-aminoindazole (131 mg, 0.98 mmol) in DMF (2.5 ml) was heated at 140° C. for 1.5 hours. The solid was collected by filtration, washed with isopropanol and dried under vacuum to give 6,7-dimethoxy-4-(1H-indazol-6-ylamino)quinoline hydrochloride (171 mg, 54%).

reactant | 4-chloro-6,7-dimethoxyquinoline | 0.89 mmol, 200 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 6-aminoindazole | 0.98 mmol, 131 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 6,7-dimethoxy-4-(1H-indazol-6-ylamino)quinoline hydrochloride | 171 mg, 54% | Cl.COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C2C=NNC2=C1 | InChI=1S/C18H16N4O2.ClH/c1-23-17-8-13-14(5-6-19-16(13)9-18(17)24-2)21-12-4-3-11-10-20-22-15(11)7-12;/h3-10H,1-2H3,(H,19,21)(H,20,22);1H
